US08222416B2
To a solution of 1-benzenesulfonyl-2-(2-cyclopentyl-acetyl)-1H-pyrrolo[2,3-b]pyridin-5-carboxylic acid methyl ester (670 mg, 1.6 mmol) in dry tetrahydrofuran (30 mL) at −78° C. was added lithium bis(trimethylsilyl)amide (1.0 M in tetrahydrofuran, 2.4 mL, 2.4 mmol) dropwise. After stirring at −78° C. for 1 h, a solution of p-toluenesulfonic anhydride (783 mg, 2.4 mmol) in tetrahydrofuran (5 mL) was added dropwise. The resulting mixture was kept at −78° C. for another 1.5 h. The reaction was quenched with water, extracted with ethyl acetate (200 mL), washed with brine, dried over anhydrous sodium sulfate and then concentrated in vacuo. Purification by flash column chromatography (QingDao silica gel, 200-300 mesh, 5% ethyl acetate/hexanes) afforded 1-benzenesulfonyl-2-[2-cyclopentyl-1-(toluene-4-sulfonyloxy)-vinyl]-1H-pyrrolo[2,3-b]pyridin-5-carboxylic acid methyl ester (850 mg, 94%) as a light yellow solid.

reactant | 1-benzenesulfonyl-2-(2-cyclopentyl-acetyl)-1H-pyrrolo[2,3-b]pyridin-5-carboxylic acid methyl ester | 1.6 mmol, 670 mg | COC(=O)C=1C=C2C(=NC1)N(C(=C2)C(CC2CCCC2)=O)S(=O)(=O)C2=CC=CC=C2 | C22H22N2O5S
reactant | lithium bis(trimethylsilyl)amide | 2.4 mmol, 1.0 M, 2.4 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | p-toluenesulfonic anhydride | 2.4 mmol, 783 mg | C1(=CC=C(C=C1)S(=O)(=O)OS(=O)(=O)C1=CC=C(C=C1)C)C | C14H14O5S2
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 1-benzenesulfonyl-2-[2-cyclopentyl-1-(toluene-4-sulfonyloxy)-vinyl]-1H-pyrrolo[2,3-b]pyridin-5-carboxylic acid methyl ester | 850 mg, 94% | COC(=O)C=1C=C2C(=NC1)N(C(=C2)C(=CC2CCCC2)OS(=O)(=O)C2=CC=C(C=C2)C)S(=O)(=O)C2=CC=CC=C2 | C29H28N2O7S2
